US08076516B2
tert-Butyl 3-(3-(6-methoxyhex-1-ynyl)phenyl)propylcarbamate was deprotected following the method used in Example 13 except that CH2Cl2 was used as a cosolvent in the reaction (HCl-dioxane solution: CH2Cl2 7:5). Purification by prep HPLC (Method 2P) gave 3-(3-(6-methoxyhex-1-ynyl)phenyl)propan-1-amine hydrochloride as an off white solid. Yield (0.050 g, 30%): 1H NMR (400 MHz, CDCl3) δ 8.37 (br s, 3H), 7.10-7.24 (m, 4H), 4.02 (t, J=6.4 Hz, 2H), 3.78 (s, 3H), 2.98 (t, J=7.6 Hz, 2H), 2.69 (t, J=7.6 Hz, 2H), 2.44 (t, J=7.6 Hz, 2H), 2.04-2.12 (m, 2H), 1.82-1.89 (m, 2H), 1.63-1.73 (m, 2H).

reactant | tert-Butyl 3-(3-(6-methoxyhex-1-ynyl)phenyl)propylcarbamate | COCCCCC#CC=1C=C(C=CC1)CCCNC(OC(C)(C)C)=O | C21H31NO3
reactant | HCl dioxane | Cl.O1CCOCC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(3-(6-methoxyhex-1-ynyl)phenyl)propan-1-amine hydrochloride | Cl.COCCCCC#CC=1C=C(C=CC1)CCCN | InChI=1S/C16H23NO.ClH/c1-18-13-5-3-2-4-8-15-9-6-10-16(14-15)11-7-12-17;/h6,9-10,14H,2-3,5,7,11-13,17H2,1H3;1H
